US04395406
1-Propargyl-4-methylthio-5-fluoropyrimid-2-one
The potassium salt of 4-methylthio-5-fluoropyrimid-2-one (0.005 mol) and propargyl bromide (0.06 mol) were stirred together in dimethylformamide (20 ml) for 40 hrs at room temperature. The mixture was then filtered; the filtrate evaporated at reduced pressure (1 mm Hg) and the residue extracted with chloroform (60 ml). The chloroform solution was washed with 1 N NaOH, with water, and dried (MgSO4) before evaporation; yield 71%, m.p. 101°-102° C. (ethyl acetate). (Found: C, 48.50; H, 3.62. Calc. for C8H7SN2O: C, 48.48; H, 3.56).

reactant | potassium | [K] | K
reactant | 4-methylthio-5-fluoropyrimid-2-one | 0.005 mol | CSC1=NC(NC=C1F)=O | C5H5FN2OS
reactant | propargyl bromide | 0.06 mol | C(C#C)Br | C3H3Br
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 1-Propargyl-4-methylthio-5-fluoropyrimid-2-one | yield 71% | C(C#C)N1C(N=C(C(=C1)F)SC)=O | C8H7FN2OS
